* C:\Users\a9300\OneDrive\Documentos\maestria\microondas 1\proyectos\simulador 1\proyecto_parametros\ejemplos LTspice\ejemplos version_2\ejemplo 1.asc
R1 N006 N008 31k
R2 N006 N007 29k
R3 N001 N003 5k
R4 N004 N001 11k
R5 V2 N005 17k
C1 N001 N006 23n
C2 N007 N008 37n
C3 N002 V1 1n
C4 N001 N002 2n
L1 N008 0 41p
L2 N003 V1 3p
L3 N005 N004 13p
L4 V2 N001 7p
.op
.backanno
.end
