* C:\Users\a9300\OneDrive\Documentos\maestria\microondas 1\proyectos\simulador 1\proyecto_parametros\ejemplos LTspice\ejemplos version_2\ejemplo 2.asc
R1 N004 N007 31k
R2 N004 N006 29k
R3 N002 N003 5k
R4 N005 V2 11k
R5 0 N008 17k
C1 V1 N004 23n
C2 N006 N007 37n
C3 N001 V1 1n
C4 N002 N001 2n
L1 N007 0 41p
L2 N003 V1 3p
L3 N008 N005 13p
L4 0 V2 7p
L6 N007 0 41p
R6 V2 0 49k
C5 V2 N002 53n
.op
* req1
* req2
* req3
.backanno
.end
