* C:\Users\a9300\OneDrive\Documentos\maestria\microondas 1\proyectos\simulador 1\proyecto_parametros\ejemplos LTspice\ejemplos version_2\ejemplo 3.asc
R1 N008 N005 31k
R2 N008 N010 29k
R3 N007 N009 5k
R4 N003 N004 11k
R5 N001 N002 17k
C1 V2 N008 23n
C2 N010 N005 37n
C3 N006 V1 1n
C4 N007 N006 2n
L1 N005 N004 41p
L2 N009 V1 3p
L3 N002 N003 13p
L4 N001 N004 7p
C5 N001 N007 53n
R6 N004 N001 49K
L5 N005 N004 47p
.op
* req1
* req2
* req3
.backanno
.end
