* C:\Users\a9300\OneDrive\Documentos\maestria\microondas 1\proyectos\simulador 1\proyecto_parametros\ejemplos LTspice\ejemplos version_2\ejemplo 4.asc
R1 N007 N001 31k
R2 N007 N005 29k
R3 N008 N004 5k
R4 N006 0 11k
R5 V2 N003 17k
C1 0 N007 23n
C2 N005 N001 37n
C3 N002 V2 1n
C4 N008 N002 2n
L1 N001 V2 41p
L2 N004 V2 3p
L3 N003 N006 13p
L4 V2 0 7p
C5 0 N008 53n
R6 0 V2 49K
L5 N001 V2 47p
.op
* req1
* req2
* req3
.backanno
.end
